US05409956
Preparation of Ethyl[2-(benzyloxycarbonylaminomethyl)-indan-5-yl]acetate:
11.2 g (42.8 mmol) of [5-(ethoxycarbonylmethyl)indan-2-yl]acetic acid and 6.5 ml (46.7 mmol) triethylamine were dissolved in 140 ml toluene, to which was added 14.1 g (51.4 mmol) of diphenylphosphorylazide, followed by stirring for 30 minutes at room temperature. Subsequently, 5.05 g (46.7 mmol) of benzyl alcohol was added and refluxed for 14 hours. After cooling, the reaction mixture was washed with 1N hydrochloric acid, water, 1N sodium hydroxide and water in this order and dried. The solvent was distilled off and the residue was purified by silica gel column chromatography (chloroform) to obtain 12.7 g colorless solid. Yield: 81%

reactant | [5-(ethoxycarbonylmethyl)indan-2-yl]acetic acid | 42.8 mmol, 11.2 g | C(C)OC(=O)CC=1C=C2CC(CC2=CC1)CC(=O)O | C15H18O4
reactant | triethylamine | 46.7 mmol, 6.5 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 51.4 mmol, 14.1 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 46.7 mmol, 5.05 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl[2-(benzyloxycarbonylaminomethyl)-indan-5-yl]acetate | 12.7 g, Yield: 81% | C(C)OC(CC=1C=C2CC(CC2=CC1)CNC(=O)OCC1=CC=CC=C1)=O | C22H25NO4
